### PR TITLE
[Merged by Bors] - doc(SetTheory/Ordinal/Notation): rewrap and improve docs

### PR DESCRIPTION
**Pull request by vihdzp**
We mostly just rewrap comment blocks and add some missing periods.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 1]
```diff
@@ -44,7 +40,7 @@ compile_inductive% ONote
 
 namespace ONote
 
-/-- Notation for 0 -/
+/-- Notation for 0. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:43]: I disagree with this sentence: in my book, a docstring should have a period iff it is a complete sentence
Can you revert this one (and similar changes below; please?

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 2]
```diff
@@ -69,19 +65,19 @@ noncomputable def repr : ONote → Ordinal.{0}
   | 0 => 0
   | oadd e n a => ω ^ repr e * n + repr a
 
-/-- Auxiliary definition to print an ordinal notation -/
-def toStringAux1 (e : ONote) (n : ℕ) (s : String) : String :=
+/-- Prints `ω^s*n`, omitting `s` if `e = 0` or `e = 1`, and omitting `n` if `n = 1`. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:68]: I would use present tense ("Print ...") and omit the full stop.
But thanks for improving this docstring; it is significantly more helpful now!

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 3]
```diff
@@ -69,19 +65,19 @@ noncomputable def repr : ONote → Ordinal.{0}
...
+private def toString_aux (e : ONote) (n : ℕ) (s : String) : String :=
   if e = 0 then toString n
   else (if e = 1 then "ω" else "ω^(" ++ s ++ ")") ++ if n = 1 then "" else "*" ++ toString n
 
-/-- Print an ordinal notation -/
+/-- Print an ordinal notation. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:73]: No period, please

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 4]
```diff
@@ -69,19 +65,19 @@ noncomputable def repr : ONote → Ordinal.{0}
...
 def toString : ONote → String
   | zero => "0"
-  | oadd e n 0 => toStringAux1 e n (toString e)
-  | oadd e n a => toStringAux1 e n (toString e) ++ " + " ++ toString a
+  | oadd e n 0 => toString_aux e n (toString e)
+  | oadd e n a => toString_aux e n (toString e) ++ " + " ++ toString a
 
 open Lean in
-/-- Print an ordinal notation -/
+/-- Print an ordinal notation. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:80]: Likewise

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 5]
```diff
@@ -146,7 +142,10 @@ theorem omega_le_oadd (e n a) : ω ^ repr e ≤ repr (oadd e n a) := by
 theorem oadd_pos (e n a) : 0 < oadd e n a :=
   @lt_of_lt_of_le _ _ _ (ω ^ repr e) _ (opow_pos (repr e) omega_pos) (omega_le_oadd e n a)
 
-/-- Compare ordinal notations -/
+/-- Compare ordinal notations.
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:145]: Likewise. You *could* do "Notation for comparing ordinals: the rest of your docstring"; that seems *even* nicer to me.

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 6]
```diff
@@ -172,22 +171,20 @@ protected theorem zero_lt_one : (0 : ONote) < 1 := by
   simp only [lt_def, repr, opow_zero, Nat.succPNat_coe, Nat.cast_one, mul_one, add_zero,
     zero_lt_one]
 
-/-- `NFBelow o b` says that `o` is a normal form ordinal notation
-  satisfying `repr o < ω ^ b`. -/
+/-- `NFBelow o b` says that `o` is a normal form ordinal notation satisfying `repr o < ω ^ b`. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:174]: Just to illustrate: this period belongs here.

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 7]
```diff
@@ -386,7 +382,7 @@ theorem zero_add (o : ONote) : 0 + o = o :=
 theorem oadd_add (e n a o) : oadd e n a + o = addAux e n (a + o) :=
   rfl
 
-/-- Subtraction of ordinal notations (correct only for normal input) -/
+/-- Subtraction of ordinal notations (correct only for normal input). -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:385]: No period please, also on multiplication below

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 8]
```diff
@@ -572,8 +568,9 @@ theorem repr_mul : ∀ (o₁ o₂) [NF o₁] [NF o₂], repr (o₁ * o₂) = rep
         mul_omega_dvd (natCast_pos.2 n₁.pos) (nat_lt_omega _)]
       simpa using opow_dvd_opow ω (one_le_iff_ne_zero.2 this)
 
-/-- Calculate division and remainder of `o` mod ω.
-  `split' o = (a, n)` means `o = ω * a + n`. -/
+/-- Calculate division and remainder of `o` mod `ω`.
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:571]: Better would be `Calculate division and remainder   : split ... means ...` (i.e., with a colon instead of a period)

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 9]
```diff
@@ -583,7 +580,8 @@ def split' : ONote → ONote × ℕ
       (oadd (e - 1) n a', m)
 
 /-- Calculate division and remainder of `o` mod ω.
-  `split o = (a, n)` means `o = a + n`, where `ω ∣ a`. -/
+
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:583]: Same here

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 10]
```diff
@@ -603,15 +601,15 @@ def mulNat : ONote → ℕ → ONote
   | _, 0 => 0
   | oadd e n a, m + 1 => oadd e (n * m.succPNat) a
 
-/-- Auxiliary definition to compute the ordinal notation for the ordinal
-exponentiation in `opow` -/
+/-- Auxiliary definition to compute the ordinal notation for the ordinal exponentiation in `opow`.
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:604]: No period please

Comment (grunweg) [reply Mathlib/SetTheory/Ordinal/Notation.lean:604]: Same for oPowAux2 and oPow

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 11]
```diff
@@ -1223,39 +1218,38 @@ instance : LinearOrder NONote :=
 
 instance : IsWellOrder NONote (· < ·) where
 
-/-- Asserts that `repr a < ω ^ repr b`. Used in `NONote.recOn` -/
+/-- Asserts that `repr a < ω ^ repr b`. Used in `NONote.recOn`. -/
 def below (a b : NONote) : Prop :=
   NFBelow a.1 (repr b)
 
-/-- The `oadd` pseudo-constructor for `NONote` -/
+/-- The `oadd` pseudo-constructor for `NONote`. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:1225]: No period, please

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 12]
```diff
@@ -1223,39 +1218,38 @@ instance : LinearOrder NONote :=
...
+actually be defined this way due to conflicting dependencies. -/
 @[elab_as_elim]
 def recOn {C : NONote → Sort*} (o : NONote) (H0 : C 0)
     (H1 : ∀ e n a h, C e → C a → C (oadd e n a h)) : C o := by
   cases' o with o h; induction' o with e n a IHe IHa
   · exact H0
   · exact H1 ⟨e, h.fst⟩ n ⟨a, h.snd⟩ h.snd' (IHe _) (IHa _)
 
-/-- Addition of ordinal notations -/
+/-- Addition of ordinal notations. -/
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Notation.lean:1238]: No period, please: also for subtraction and multiplication

**Review by grunweg — COMMENTED** [review]
Thanks for doing this clean-up. I took a detailed look - in particular, I think a more nuanced take than "add periods everywhere" would be helpful. That said, all of these are minor comments and should be quick to address.

File: Mathlib/SetTheory/Ordinal/Notation.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Notation.lean:43]: That makes sense, I'll take it into account moving forward.

File: Mathlib/SetTheory/Ordinal/Notation.lean [hunk 13]
```diff
@@ -3,25 +3,22 @@ Copyright (c) 2018 Mario Carneiro. All rights reserved.
...
-`ω ^ e * n + a`.
-We say that `o` is in Cantor normal form - `ONote.NF o` - if either `o = 0` or
+`ω ^ e * n + a`. We say that `o` is in Cantor normal form - `ONote.NF o` - if either `o = 0` or
 `o = ω ^ e * n + a` with `a < ω ^ e` and `a` in Cantor normal form.
 
-The type `NONote` is the type of ordinals below `ε₀` in Cantor normal form.
-Various operations (addition, subtraction, multiplication, power function)
-are defined on `ONote` and `NONote`.
+The type `NONote` is the type of ordinals below `ε₀` in Cantor normal form. Various operations
+(addition, subtraction, multiplication, exponentiation) are defined on `ONote` and `NONote`.
```
Comment (urkud) [inline Mathlib/SetTheory/Ordinal/Notation.lean:21]: It looks like the original comments used https://sembr.org/

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Notation.lean]: Makes sense, I've reverted the line wrapping.

**Comment by kim-em** [comment]
bors merge
